US04409220
2-Amino-7-(3-phenyl-propyl)-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine dihydrochloride
This compound was prepared analogous to Example 22 from 1-(3-phenyl-propyl)-2,3,6,7-tetrahydro-4,5-bis(trimethylsilyloxy)-azepine and α-amino-acetamidine dihydrochloride.

reactant | 1-(3-phenyl-propyl)-2,3,6,7-tetrahydro-4,5-bis(trimethylsilyloxy)-azepine | C1(=CC=CC=C1)CCCN1CCC(=C(CC1)O[Si](C)(C)C)O[Si](C)(C)C | C21H37NO2Si2
reactant | α-amino-acetamidine dihydrochloride | Cl.Cl.NCC(=N)N
product | 2-Amino-7-(3-phenyl-propyl)-6,7,8,9-tetrahydro-5H-pyrazino[2,3-d]azepine dihydrochloride | Cl.Cl.NC=1C=NC2=C(CCN(CC2)CCCC2=CC=CC=C2)N1 | InChI=1S/C17H22N4.2ClH/c18-17-13-19-15-8-11-21(12-9-16(15)20-17)10-4-7-14-5-2-1-3-6-14;;/h1-3,5-6,13H,4,7-12H2,(H2,18,20);2*1H
